USRE028939
Twenty grams of 4-bromo-2-cyanoaniline is treated with concentrated hydrochloric acid and sodium nitrite; the resulting diazo compound is reacted with stannous chloride in concentrated hydrochloric acid at 0° C. Working up as in Example 2 gives 3-amino-5-bromoindazole.

reactant | 4-bromo-2-cyanoaniline | Twenty grams | BrC1=CC(=C(N)C=C1)C#N | C7H5BrN2
reactant | sodium nitrite | N(=O)[O-].[Na+]
solvent | hydrochloric acid | Cl | ClH
product | 3-amino-5-bromoindazole | NC1=NNC2=CC=C(C=C12)Br | C7H6BrN3
